US06610847B2
7-Benzenesulfonyl-4chloro-7H-pyrrolo[2,3-d]pyrimidine
In a flame-dried flask under nitrogen, 780 mg of 60% sodium hydride (19.5 mmol) in mineral oil was added to 30 mL of dimethylformamide (DMF) and the resulting mixture cooled to 0° C. A solution of 2.0 g (13.0 mmol) of 4-chloro-7H-pyrrolo[2,3-d]pyrimidine in 10 mL of DMF was added slowly over a 5 min period. The reaction was stirred for 10 min at which time generation of hydrogen (H2) ceased. Benzenesulfonylchloride (1.7 mL/13.0 mmol) was added, the reaction warmed to room temperature and stirred for 1 h. Water was added, and the resulting precipitate was filtered and dried in vacuo to obtain 3.4 g (89%) of the title compound as a crystalline solid, mp 163-167° C.

reactant | sodium hydride | 19.5 mmol, 780 mg | [H-].[Na+]
reactant | 4-chloro-7H-pyrrolo[2,3-d]pyrimidine | 13.0 mmol, 2.0 g | ClC=1C2=C(N=CN1)NC=C2 | C6H4ClN3
reactant | hydrogen | [H][H] | H2
reactant | Benzenesulfonylchloride | 13.0 mmol, 1.7 mL | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
solvent | DMF | 10 mL | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
solvent | Water | O | H2O
product | 7-Benzenesulfonyl-4chloro-7H-pyrrolo[2,3-d]pyrimidine | 3.4 g, 89% | C1(=CC=CC=C1)S(=O)(=O)N1C=CC2=C1N=CN=C2Cl | C12H8ClN3O2S
